US07947676B2
2-{[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethanol
The procedure described in Example 1 was repeated using N′-[4-cyano-3-(2-hydroxyethoxy)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide (1.50 g, 6.72 mmol) and 3-methyl-4-[(6-methylpyridin-3-yl)oxy]aniline (1.44 g, 6.72 mmol) to give the title compound as a white solid (2.16 g, 82%); NMR Spectrum: 2.20 (s, 3H), 2.44 (s, 3H), 3.81 (br t, 2H), 4.32 (t, 2H), 5.14 (br s, 1H), 6.96 (d, 1H), 7.19 (dd, 1H), 7.24 (d, 1H), 7.58 (dd, 1H), 7.62 (s, 1H), 8.17 (d, 1H) 8.28 (s, 1H), 8.44 (br s, 1H); Mass Spectrum: 393 (MH+).

reactant | N′-[4-cyano-3-(2-hydroxyethoxy)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide | 6.72 mmol, 1.50 g | C(#N)C=1C(=NNC1N=CN(C)C)OCCO | C9H13N5O2
reactant | 3-methyl-4-[(6-methylpyridin-3-yl)oxy]aniline | 6.72 mmol, 1.44 g | CC=1C=C(N)C=CC1OC=1C=NC(=CC1)C | C13H14N2O
product | 2-{[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethanol | 2.16 g, 82% | CC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC1=C2C(=NC=N1)NN=C2OCCO | C20H20N6O3
